US04859229
using ethyl 3-amino-2,4-difluorocrotonate and 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate there is obtained 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5-fluoro-6-fluoromethyl-2,4(1H,3H)-pyrimidinedione, m.p. 152°-154° C.;

reactant | ethyl 3-amino-2,4-difluorocrotonate | N\C(=C(/C(=O)OCC)\F)\CF | C6H9F2NO2
reactant | 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate | ClC1=CC(=C(C=C1OC(C)C)N=C=O)F | C10H9ClFNO2
product | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5-fluoro-6-fluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OC(C)C)N1C(NC(=C(C1=O)F)CF)=O)F | C14H12ClF3N2O3
